US04012413
In the manner given in Example 20, 3-phthalimidovaleric acid and carbonyldiimidazol are reacted in tetrahydrofuran. To this mixture is added 7-nitro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine to give 3-phthalimidovaleric acid, 2-(7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl)hydrazide which is warmed with acetic acid to give N-[2-[8-nitro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepin-1-yl]butyl]phthalimide.

reactant | 3-phthalimidovaleric acid | C1(C=2C(C(N1C(CC(=O)O)CC)=O)=CC=CC2)=O | C13H13NO4
reactant | carbonyldiimidazol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 7-nitro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12ClN5O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-phthalimidovaleric acid, 2-(7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl)hydrazide | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NNC(CC(CC)N2C(C=3C(C2=O)=CC=CC3)=O)=O)C3=C(C=CC=C3)Cl)C1 | C28H23ClN6O5
